data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,9487,"C1CC[NH2+]C1.CC1(CC[C:1](=[CH2:2])[N:3]2CCCC2)C(=O)CCC[C:4]1=[O:5].O|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8109,"CC(C)C1=C[CH:1]=[C:2](C(C)C)C=C1.O=[N+:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9291,"C1CCOC1.CCCCCCCCC=CCCCCCCCC(=O)OCC1COC(C)(C)[O:1]1.O.O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1907,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCC[O+:1](C(O)(O)C1=CC=C([N+](=O)[O-])C=C1)[H:2].CCCC[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4823,"C1=CC=NC=C1.CN(C)C1=CC=[N:1]C=C1.Cl[C:2](C1=CC=CC=C1)=[O:3].NC1=C([N+](=O)[O-])C=CC=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3907,"C1=CC=[N+:1]([H:2])C=C1.CC12CCC(O)CC1=CCC1C2CCC2(C)C1CCC2C(C)(OCCO)[OH:3].[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6487,"C1=CC=C(CNC2([OH:1])CCCCCCC2)C=C1.CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2903,"C[OH:1].O[CH:2]=[NH2+:3].[Cl-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8283,"CCN(CC)C(C)(OC(C)=O)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2153,"CC[N+](=CC=C(C)C)CC.CC[NH+:1](CC)[H:2].O=C1CCCC(=[O:3])C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,236,"CO[CH:1]=[NH2+:2].[Cl-].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9553,"CN[C:1](C)([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9544,"CCOCCC=[N+:1](C)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2159,"CCCCCOCC1C(O)C[CH:1]([N+:2]2=CC(CC)=CC=C2)[O:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5706,"CO[PH+:1](OC)N1C=NN=N1.C[OH:2]|(2, 1)"
train,pmechdb_split_0,0,1360,"BrC(Br)Br.COC1=CC=C(C[CH2:1][O:2][P+:3](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.[Br-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,3049,"C1CCOC1.N#CC1=CC=C(N2CC[C:1](=[O+:2]CCO)CC2)C=C1.O=S(=O)([O-])O.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,789,"C=C[C:1](SCC)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7691,"CC1=CC=C(S(=O)(=O)[O-])C=C1.NC(C(O)C(O)C(CO)[OH:1])[CH:2]=[OH+:3].O=S(=O)([O-])O.[Cl-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8638,"CC(=O)O[C:1](C)=[O:2].CC(=O)[O-].CC[NH+](CC)CC.COC1=CC(C(C(=O)[O-:3])C(OC(C)=O)C2=CC(O)=C(OC)C=C2)=CC(OC)=C1OC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5342,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CO.CO[C:1](CCC(C)C1CCC2C3C(O)CC4CC(O)CCC4(C)C3CCC12C)([OH2+:2])[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5073,"C1CCC2=[N:1]CCCN2CC1.CCOC(=O)[CH:2]([H:3])[C:4](C1=CC=CC=C1)=[O:5].O=C1C(C2=CC=CC=C2)=C1C1=CC=CC=C1|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4501,"C[C+]=C[Si:1](C)(C)C.C[O:2][Sn-]|(2, 1)"
train,pmechdb_split_0,0,7219,"CC(C)[CH2][Al-]([CH2]C(C)C)([O]C(=CCC1=CC=CC=C1)C1=CC=CC=C1)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,266,"N#C[C:1](N)([H:2])[C:3](C#N)=[NH2+:4].N#[C-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,192,"C[C+:1](C)C1=C(CC[OH:2])C=CC=C1.O|(2, 1)"
train,pmechdb_split_0,0,2498,"C=C1CCCCC12CC(=[O+:1][H:2])OC(CC)C2.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4793,"CCO[C+:1]1CCC(C)(C)[C:2]([O:3][H:4])=[CH:5]1.CC[O-:6]|(6, 4);((4, 3), 2);((2, 5), 1)"
train,pmechdb_split_0,0,4047,"O[CH:1]([NH3+:2])[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1548,"CC(C1=CC=CC=C1)[O+:1]=[CH:2]CCC1=CC=CC=C1.C[Si](C)(C)O[Si](C)(C)C.C[Si](C)(C)[O:3][C:4](C1=CC=CC=C1)=[CH2:5].O=S(=O)([O-])C(F)(F)F|(3, 4);((4, 5), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5081,"CCC(=O)N[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.C[CH+:5]C|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,5193,"C1=CC=C([CH2:1][Cl:2])C=C1.CCC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8573,"CO[C:1](C1=CC=CC=C1)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6569,"CC=CC[CH2:1][O:2]P(=O)(Cl)Cl.[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2740,"C[C:1](C)([O:2]C)[F:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4410,"C[P:1](C)(C)(O)[I:2]|((1, 2), 2)"
train,pmechdb_split_0,0,103,"CO[C:1](CCOC(C)[O-:2])=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4917,"CC(C)(C)[OH:1].CC[CH:2]([H:3])[C+:4](C)C|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,4901,"CC1=CC=C(S(=O)(=O)[O-:1])C=C1.COC1=C(OC)C=C(C(O)[O+:2](CCCO)[H:3])C(Br)=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9696,"O=S(=O)(O)[C:1]1([H:2])C=CC=C[C+:3]1O.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,7938,"C[C:1](CCCO)=[CH2:2].O=S(=O)(O)[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,4368,"C[C+]=C[Si:1](C)(C)C.C[O:2][Fe-]|(2, 1)"
train,pmechdb_split_0,0,185,"C(#CC1=C(N=N[OH:1])C=CC=C1)C1=CC=CC=C1.CC#N.CC(C)(C)[O+:2]([H:3])[B-:4](F)(F)[F:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9491,"CC(=O)[O:1][C:2](C)(N)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2018,"C1=CC([CH2-:1])=CC=N1.C[C:2](C)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,918,"C[NH+:1](C)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6633,"BrC1=CC=C(C2=C[CH:1]([H:2])[C:3](C3=CC=CC(Br)=C3)=[O+:4]2)C=C1.CO.[Cl-].[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
